US04683241
2,4-dipivaloyloxybenzophenone
2,4-dihydroxybenzophenone 1 g (0.005 mole) was warmed to 50° C. with 1.25 g (0.015 mole) of pivaloyl chloride and 30 mls of dry pyridine solvent removed by rotary evaporation H2O+EtOAc+Et2O added and stirred. Layers were separated and the organic layer was washed with 5% K2CO3, then H2O, then dried over Na2SO4. Solvent was removed after filtration via rotary evaporator. The resulting oily residue was placed on top of a 15 g florisil column and eluted with toluene. Product isolated by removal of solvent. Oil.

reactant | 2,4-dihydroxybenzophenone | 0.005 mole, 1 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | pivaloyl chloride | 0.015 mole, 1.25 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 30 mls | N1=CC=CC=C1 | C5H5N
product | 2,4-dipivaloyloxybenzophenone | C(C(C)(C)C)(=O)OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC(C(C)(C)C)=O | C23H26O5
